US06531479B2
{3-{4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino}-phenyl}-methanol {116}
A mixture of 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone (10 mmol, 2.1 g) in 2-methoxylethanol was treated with N-(4-hydroxymethyl-phenyl)-guanidine hydrochloride (1.65 g) in the presence of NaOH (400 mg). The reaction mixture was allowed to reflux for 20 h. After concentration, the precipitates were filtered and washed with EtOAc/MeOH several times. Recrystallisation from MeOH/EtOAc afforded the title compound (2.17 g, 70%). 1H-NMR (300 MHz, d6-DMSO) δ 3.00 (s, 3H, CH3), 3.02 (s, 3H, CH3), 4.86 (s, 2H, CH2), 7.30 (m, 1H, Ph-H), 7.44 (d, 1H, J=6.1 Hz, pyrimidinyl-H), 7.61 (m, 1H, Ph-H), 8.01 (m, 1H, Ph-H), 8.13 (s, 1H, Ph-H), 8.88 (d, 1H, J=6.1 Hz, pyrimidinyl-H).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | 10 mmol, 2.1 g | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-(4-hydroxymethyl-phenyl)-guanidine hydrochloride | 1.65 g | Cl.OCC1=CC=C(C=C1)NC(=N)N
reactant | NaOH | 400 mg | [OH-].[Na+]
reactant | 2-methoxylethanol | O(C)CCO | C3H8O2
product | {3-{4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino}-phenyl}-methanol | 2.17 g, 70% | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC=1C=C(C=CC1)CO | C16H16N4OS
